US07071201B2
(26-1) 3-Pyridylethanol
Ethyl 3-pyridylacetate (2.0 ml) was dissolved in tetrahydrofuran (66 ml). Under ice cooling, lithium aluminum hydride (0.5 g) was added thereto followed by stirring for 30 min. After adding water (0.5 ml), a 5 N aqueous solution of sodium hydroxide (0.5 ml) and further water (1.5 ml), the resulting precipitate was filtered off and washed with ethyl acetate. The filtrate was concentrated under reduced pressure to give the title compound (1.636 g) as a pale yellow oil (1.636 g) (yield: quantitative).

reactant | Ethyl 3-pyridylacetate | 2.0 ml | N1=CC(=CC=C1)CC(=O)OCC | C9H11NO2
reactant | lithium aluminum hydride | 0.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.5 ml | O | H2O
solvent | tetrahydrofuran | 66 ml | O1CCCC1 | C4H8O
product | 3-Pyridylethanol | 1.636 g, yield: quantitative | N1=CC(=CC=C1)C(C)O | C7H9NO
